US07799805B2
3-(4-Bromo-phenyl)-propan-1-ol
BH3 (1M in THF, 412 mL, 412 mmol) is added to a sol. of 1-allyl-4-bromo-benzene (204 g, 1.03 mmol) in THF (1.00 L) under nitrogen at 0° C. The mixture is stirred overnight while warming up to rt. Aq. NaOH (2.5M, 1.65 L, 4.12 mol) is added, and the mixture is cooled to 0° C. H2O2 (35%, 480 mL, 5.15 mol) is dropped carefully, and the mixture is stirred for 3 h. Et2O is added, and the phases are separated. The org. layer is washed with water (1×), and brine (1×). The org. layer is dried over MgSO4, filtered, and the solvents are removed under reduced pressure. Purification by FC (Et2O/petroleum ether 1:1→Et2O) yields the title compound (97.4 g, 44%).

reactant | 1-allyl-4-bromo-benzene | 1.03 mmol, 204 g | C(C=C)C1=CC=C(C=C1)Br | C9H9Br
reactant | NaOH | 4.12 mol, 2.5M, 1.65 L | [OH-].[Na+]
reactant | H2O2 | 5.15 mol, 480 mL | OO | H2O2
reactant | Et2O | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.00 L | C1CCOC1 | C4H8O
product | 3-(4-Bromo-phenyl)-propan-1-ol | 97.4 g, 44% | BrC1=CC=C(C=C1)CCCO | C9H11BrO
